US07084155B2
p Preparation of 3-chloro-pyridine-2-carboxaldehyde
To a solution of TMEDA (660 uL, 2.58 mmol) in ether (20 mL) at −78° C. was added a solution of n-butyl lithium in ether (2.5 M, 1.76 mL, 4.40 mmol). After 30 minutes at −78° C., 3-chloropyridine (419 uL, 4.40 mmol) was added. After another 2 hours at −78° C., DMF (375 uL, 4.84 mmol) was added. After a further 2 hours at −78° C., the reaction was quenched with saturated aqueous NaHCO3 (20 mL), extracted with ether (4×15 mL), dried (Na2SO4), filtered and concentrated in vacuo to give the crude oil. Purification by column chromatography on silica gel (Hexanes: EtOAc 4:1) afforded the title compound as a crystalline solid (168 mg, 27%). 1H NMR (CDCl3) 7.45 (dd, 1H, J=8.3, 4.4 Hz), 7.83 (dd, 1H, J=4.8, 1.4 Hz), 8.70 (dd, 1H, J=4.8, 1.5 Hz), 10.28 (s, 1H).

reactant | TMEDA | 2.58 mmol, 660 uL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-chloropyridine | 4.40 mmol, 419 uL | ClC=1C=NC=CC1 | C5H4ClN
reactant | DMF | 4.84 mmol, 375 uL | CN(C)C=O | C3H7NO
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 4.40 mmol, 2.5 M, 1.76 mL | CCOCC | C4H10O
product | 3-chloro-pyridine-2-carboxaldehyde | 168 mg, 27% | ClC=1C(=NC=CC1)C=O | C6H4ClNO
